US04985582
1-Benzyloxy-2,2-di-benzylthiomethyl-4-methyl-pentane was prepared from 2-benzyloxymethyl-2-hydroxymethyl-4-methyl-pentan-1-ol dimethanesulphonate in a manner analogous to that described for the synthesis of 5-benzylthiomethyl-5-t-butyl-2,2-dimethyl-1,3-dioxane.

reactant | 2-benzyloxymethyl-2-hydroxymethyl-4-methyl-pentan-1-ol dimethanesulphonate | CS(=O)(=O)O.CS(=O)(=O)O.C(C1=CC=CC=C1)OCC(CO)(CC(C)C)CO
reactant | 5-benzylthiomethyl-5-t-butyl-2,2-dimethyl-1,3-dioxane | C(C1=CC=CC=C1)SCC1(COC(OC1)(C)C)C(C)(C)C | C18H28O2S
product | 1-Benzyloxy-2,2-di-benzylthiomethyl-4-methyl-pentane | C(C1=CC=CC=C1)OCC(CC(C)C)(CSCC1=CC=CC=C1)CSCC1=CC=CC=C1 | C29H36OS2
